US09120825B2
In an argon atmosphere, a solution obtained by dissolving 5.14 g (22.1 mmol) of Si(tBuNCHCHNtBu)(H)Cl in 10 mL of hexane was added to a lithium(1,1,3,3-tetramethylbutylamide) solution prepared by adding 10 mL of hexane and 2.94 g (22.8 mmol) of 1,1,3,3-tetramethylbutylamine to 13.8 mL (22.8 mmol) of a hexane solution (concentration: 1.65 mol/L) of butyllithium and stirring the mixture at room temperature for 14 hours, and the resulting mixture was stirred at room temperature for 24 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was sublimated (heating temperature: 180° C./64 Pa) to obtain 1,3-di-tert-butyl-2-(1,1,3,3-tetramethylbutyl)amino-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)NHtOct) as a white solid (yielded amount: 5.85 g, yield: 81%).

reactant | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | 22.1 mmol, 5.14 g | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
reactant | lithium(1,1,3,3-tetramethylbutylamide) | CC(CC(C)(C)C)(C)[NH-].[Li+]
reactant | 1,1,3,3-tetramethylbutylamine | 22.8 mmol, 2.94 g | CC(CC(C)(C)C)(C)N | C8H19N
reactant | butyllithium | C(CCC)[Li]
solvent | hexane | 10 mL | CCCCCC | C6H14
solvent | hexane | 22.8 mmol, 13.8 mL | CCCCCC | C6H14
solvent | hexane | 10 mL | CCCCCC | C6H14
product | 1,3-di-tert-butyl-2-(1,1,3,3-tetramethylbutyl)amino-1,3-diaza-2-silacyclopent-4-ene | yield: 81% | C(C)(C)(C)N1[SiH](N(C=C1)C(C)(C)C)NC(CC(C)(C)C)(C)C | C18H39N3Si
